US04519928
To benzotriazole (100 g.) melted, heated to 130° C. and stirred there was added aluminum chloride (0.1 g.) and the addition of diisobutylene drop by drop was begun. As the reaction mixture was cooled to 100° C. by refluxing olefin, addition was discontinued until consumption by alkylation allowed the temperature to rise to 120° C. where addition was resumed. This procedure was continued for 11 hrs. during which a total of 90 g. of diisobutylene was added. The reaction mixture was cooled, treated with water, extracted with benzene and filtered to remove solids. The benzene portion was separated, dried and stripped of solvent by rotary evaporation. The product N-tert-octylbenzotriazole was obtained as a tan semi-solid residue.

reactant | benzotriazole | 100 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | aluminum chloride | 0.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | diisobutylene | CC(=C)CC(C)(C)C | C8H16
product | N-tert-octylbenzotriazole | C(C)(C)(CC(C)(C)C)N1N=NC2=C1C=CC=C2 | C14H21N3
